US08791236B2
Preparation of 1,18-Octadecanedioic Acid Mono Benzyl Ester
A solution of 1,18-octadecanedioic acid (75 g, 0.24 mol), p-toluene sulfonic acid mono hydrate (2.27 g, 11.9 mmol) and benzyl alcohol (20.7 g, 0.19 mol) in toluene (2.75 L) was heated to reflux for 3 hr. Water was removed by azeotropic distillation during reflux. Celite (25 g) was added and the mixture was cooled to 40° C. and stirred for an additional hour. The mixture was purified by plug filtration through silica using toluene as mobile phase. Fractions containing 1,18-octadecanedioic acid mono benzyl ester was collected and the volume was reduced by vacuum distillation at 75° C. The solution was cooled to 50° C., heptane was added, and the mixture was cooled to 35° C. Upon crystallisation additional heptane was added over a period of 15 min. and finally the mixture was cooled to 10° C. for an additional hour. The product was collected by filtration, washed with heptane and dried in vacuum. Yield of 1,18-octadecanedioic acid mono benzyl ester was 34 g (35%).

reactant | 1,18-octadecanedioic acid | 0.24 mol, 75 g | C(CCCCCCCCCCCCCCCCC(=O)O)(=O)O | C18H34O4
reactant | p-toluene sulfonic acid mono hydrate | 11.9 mmol, 2.27 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | benzyl alcohol | 0.19 mol, 20.7 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 2.75 L | C1(=CC=CC=C1)C | C7H8
product | 1,18-Octadecanedioic Acid Mono Benzyl Ester | C(C1=CC=CC=C1)OC(CCCCCCCCCCCCCCCCC(=O)O)=O | C25H40O4
